US05801270
A solution with 3.2 g (0.032 mole) of maleic anhydride dissolved in chloroform was added dropwise over 1 hour to 8 g (0.016 mole) of 11,15-dihydroxy-13-octyl-9,13,17-triazapentacosane in a reactor. The resultant mixture was heated to 50° C. and stirred for 6 hours. Thereafter, the solvent was distilled off under reduced pressure, and a solution with 6.0 g (0.048 mole) of sodium sulfite dissolved in 150 ml of water was added to the residue to react them at 60° C. for 7 hours. After completion of the reaction, the reaction mixture was added with 100 ml of additional water and adjusted to pH 7. The thus-adjusted reaction mixture was then desalted by electrodialysis and lyophilized, thereby obtaining 10.6 g (isolation yield: 71%) of sodium 1,15-dicarboxy-6,10-dihydroxy-3,13-dioxo-4,8,12-trioctyl-4,8,12-triaza-1,15-pentadecanedisulfonate.

reactant | maleic anhydride | 0.032 mole, 3.2 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 11,15-dihydroxy-13-octyl-9,13,17-triazapentacosane | 0.016 mole | OC(CNCCCCCCCC)CN(CC(CNCCCCCCCC)O)CCCCCCCC | C30H65N3O2
reactant | sodium sulfite | 0.048 mole, 6.0 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 150 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | sodium 1,15-dicarboxy-6,10-dihydroxy-3,13-dioxo-4,8,12-trioctyl-4,8,12-triaza-1,15-pentadecanedisulfonate | 10.6 g, yield: 71% | C(=O)(O)C(CC(N(CC(CN(CC(CN(C(CC(S(=O)(=O)[O-])C(=O)O)=O)CCCCCCCC)O)CCCCCCCC)O)CCCCCCCC)=O)S(=O)(=O)[O-].[Na+].[Na+] | InChI=1S/C38H73N3O14S2.2Na/c1-4-7-10-13-16-19-22-39(27-31(42)29-40(23-20-17-14-11-8-5-2)35(44)25-33(37(46)47)56(50,51)52)28-32(43)30-41(24-21-18-15-12-9-6-3)36(45)26-34(38(48)49)57(53,54)55;;/h31-34,42-43H,4-30H2,1-3H3,(H,46,47)(H,48,49)(H,50,51,52)(H,53,54,55);;/q;2*+1/p-2
